US04886805
A solution of 13 g of 3-mercapto-8-trifluoromethyl-1,2,4-triazolo(4,3-a)pyridine, prepared in Example 18, and 15.5 g of 1-chloro-2-[4-(2,4-difluorophenyl)piperazin-1-yl]ethane as the base, freed from its hydrochloride, prepared in Example 7, by the addition of sodium hydroxide and extraction with ether, in 75 ml of ethanol containing 10 ml of triethylamine is heated under reflux for 6 hours. The reaction mixture is then concentrated in vacuo and the residue is taken up with methylene chloride, which is washed carefully with water, dried and then evaporated. The residue crystallizes when taken up in a mixture of ethyl ether and isopropyl ether. The crystals obtained are filtered off, washed with isopropyl ether and then dried to give 15.5 g of 3-[2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethylmercapto]-8-trifluoromethyl-1,2,4-triazolo(4,3-a)pyridine in the form of crystals melting at 119°-120° C.

reactant | 3-mercapto-8-trifluoromethyl-1,2,4-triazolo(4,3-a)pyridine | 13 g | SC1=NN=C2N1C=CC=C2C(F)(F)F | C7H4F3N3S
reactant | 1-chloro-2-[4-(2,4-difluorophenyl)piperazin-1-yl]ethane | 15.5 g | ClCCN1CCN(CC1)C1=C(C=C(C=C1)F)F | C12H15ClF2N2
reactant | hydrochloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 3-[2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethylmercapto]-8-trifluoromethyl-1,2,4-triazolo(4,3-a)pyridine | 15.5 g | FC1=C(C=CC(=C1)F)N1CCN(CC1)CCSC1=NN=C2N1C=CC=C2C(F)(F)F | C19H18F5N5S
